US07186726B2
Synthesis of 1-[4-(1-methyl-piperidin-4-ylmethyl)piperazin-1-yl]-3,3-diphenyl-propan-1-one
To a solution of 1-(1-methyl-piperidin-4ylmethyl)-piperazine (0.25 g, 1.26 mmol) in dry CH2Cl2 (25 ml) was added 3,3-diphenylpropanoic acid (0.26 g, 1.15 mmol) under nitrogen. To the reaction was added EDC (0.48 g, 2.53 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue dissolved in ethyl acetate:water (10:1) (100 ml). The organic was washed with water (25 ml, 2×) and 10% NaOH (25 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using CH2Cl2:MeOH (5:1) to give desired product in 69% yield.

reactant | 1-(1-methyl-piperidin-4ylmethyl)-piperazine | 1.26 mmol, 0.25 g | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | 3,3-diphenylpropanoic acid | 1.15 mmol, 0.26 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | EDC | 2.53 mmol, 0.48 g
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[4-(1-methyl-piperidin-4-ylmethyl)piperazin-1-yl]-3,3-diphenyl-propan-1-one | 69% yield | CN1CCC(CC1)CN1CCN(CC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H35N3O
